US05104867
11-(4) (2S, 4S)-2-Ethylcarbamoyl-4-(4-methoxybenzylthio)pyrrolidine
41.19 ml of a 4N ethyl acetate solution of hydrogen chloride were added to a solution of 13.00 g of (2S, 4S)-1-t-butoxycarbonyl-2-ethylcarbamoyl-4-(4-methoxybenzylthio)pyrrolidine dissolved in 100 ml of ethyl acetate, and the mixture was stirred at room temperature for 3 hours. At the end of this time, the reaction mixture was poured into a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The aqueous layer was saturated with ammonium chloride and extracted with tetrahydrofuran. The combined extracts were washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent was removed by distillation under reduced pressure. The residue was subjected to column chromatography through silica gel (eluted with a 87:13 by volume mixture of ethyl acetate and methanol) to afford 8.00 g of the title compound as pale brown crystals, melting at 67-68° C.

reactant | hydrogen chloride | Cl | ClH
reactant | (2S, 4S)-1-t-butoxycarbonyl-2-ethylcarbamoyl-4-(4-methoxybenzylthio)pyrrolidine | 13.00 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)SCC1=CC=C(C=C1)OC)C(NCC)=O | C20H30N2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4N | C(C)(=O)OCC | C4H8O2
product | (2S, 4S)-2-Ethylcarbamoyl-4-(4-methoxybenzylthio)pyrrolidine | 8.00 g | C(C)NC(=O)[C@H]1NC[C@H](C1)SCC1=CC=C(C=C1)OC | C15H22N2O2S
